US09260400B2
1A) 2-[(4-methoxyphenoxy)methyl]oxirane
A solution of NaOH (0.35 g) in 10 mL of water was added to a mixture of 4-methoxyphenol (1.10 g, 8.5 mmol) and epichlorohydrin (0.80 mL, 10.2 mmol). The mixture was heated at 100° C. for 3 h. After cooling, the mixture is taken up with AcOEt (50 mL). The organic phase was separated, washed with brine, dried over Na2SO4 and evaporated under reduced pressure. The crude residue was chromatographed (Petroleum ether/AcOEt, 4:1, as eluent) to afford pure compound in 48% yield. 1H NMR (CDCl3): δ 2.73-2.75 (m, 1H), 2.89 (app t, 1H), 3.31-3.36 (m, 1H), 3.76 (s, 3H), 3.88-3.93 (m, 1H), 4.14-4.20 (m, 1H), 6.81-6.88 (m, 4H).

reactant | NaOH | 0.35 g | [OH-].[Na+]
reactant | 4-methoxyphenol | 8.5 mmol, 1.10 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | epichlorohydrin | 10.2 mmol, 0.80 mL | C(Cl)C1CO1 | C3H5ClO
reactant | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
product | 2-[(4-methoxyphenoxy)methyl]oxirane | 48% yield | COC1=CC=C(OCC2OC2)C=C1 | C10H12O3
